US07202245B2
8-Fluoro-4-[2-(5-trifluoromethyl-pyridin-2-Ylamino)-ethylamino]-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one
A solution of 259 mg of 4-(2-amino-ethylamino)-8-fluoro-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one, 422 mg of 2-chloro-5-trifluoromethylpyridine and 411 mg of sodium carbonate in n-butanol (1 mL) was heated to reflux for 48 hrs. The reaction mixture was cooled to room temperature, filtered through diatomaceous earth, and the filtrate concentrated to give a solid residue. This was separated by silica gel chromatography to provide the title compound. MS (M+H)+=407.9.

reactant | 4-(2-amino-ethylamino)-8-fluoro-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | 259 mg | NCCNC=1C=2N(C3=CC(=CC=C3N1)F)C(NN2)=O | C11H11FN6O
reactant | 2-chloro-5-trifluoromethylpyridine | 422 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | sodium carbonate | 411 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | n-butanol | 1 mL | C(CCC)O | C4H10O
product | 8-Fluoro-4-[2-(5-trifluoromethyl-pyridin-2-Ylamino)-ethylamino]-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | FC1=CC=C2N=C(C=3N(C2=C1)C(NN3)=O)NCCNC3=NC=C(C=C3)C(F)(F)F | C17H13F4N7O
